US05948820
(4) 2-Acetamido-4-(4-heptyloxyphenyl)butyl acetate
To a suspension of sodium hydride (0.076 g) in dimethylformamide (1 ml) and tetrahydrofuran (1 ml), under a nitrogen atmosphere, a solution of 2-acetamido-4-(4-hydroxyphenyl)butyl acetate (0.51 g) in dimethylformamide (2 ml) was added and the mixture was stirred at room temperature for 50 minutes. Then, to the solution, heptyl bromide (0.35 g) and catalytic amount of potassium iodide were added and the mixture was stirred at 60° C. for 4 hours and 40 minutes. Then, the reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with a dilute aqueous sodium hydrogencarbonate solution and a saturated brine, dried over sodium sulfate and the solvent was distilled away under reduced pressure. The residue obtained was subjected to silica gel chromatography (eluent; ethyl acetate-hexane=4:1) to give the subject compound (0.30 g).

reactant | sodium hydride | 0.076 g | [H-].[Na+]
reactant | 2-acetamido-4-(4-hydroxyphenyl)butyl acetate | 0.51 g | C(C)(=O)OCC(CCC1=CC=C(C=C1)O)NC(C)=O | C14H19NO4
reactant | heptyl bromide | 0.35 g | C(CCCCCC)Br | C7H15Br
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | water | O | H2O
product | 2-Acetamido-4-(4-heptyloxyphenyl)butyl acetate | 0.30 g | C(C)(=O)OCC(CCC1=CC=C(C=C1)OCCCCCCC)NC(C)=O | C21H33NO4
